Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old F w/ hx of HLD, L hemispheric AVM, 
multiple intracerebral aneurysm,, prior cerebellar stroke in 
___, and COPD who presents from OSH with newfound vertebral 
artery dissection on imaging. Hx obtained from chart and pt at 
bedside. 

Clinical course/associated symptoms:
Around 4 days ago, pt noticed sudden onset of aching pain in her 
R temporal region, fluctuating in intensity and persistent. She 
feels that the pain "moved all around the area" but did not 
radiate into her neck. Moderate in severity. Noticed some 
associated nausea but no other concerns. She took Tylenol which
did not provide relief. This morning, she woke up and noticed 
that the R side of her neck felt "stiff", with discomfort 
ranging from her ear to shoulder. She subsequently presented to 
___ for evaluation.

Denies engaging in any sports or rigorous physical activity 
recently. No clear history of neck manipulation such as 
chiropractor evaluation or massage. No recent head trauma. Pt is 
unaware of any other clear triggers preceding onset of her sx or 
any unusual events. Denies any recent dysphagia, vertigo/hearing
changes, diplopia, dysarthria, or focal neurologic deficits. 

Pt has prior hx of stroke in ___ found while admitted to ___ 
from ___. She was being treated there for nausea/vomiting 
and UTI/dehydration when after a fall w/ headstrike she was 
discovered on ___ to have had R cerebellar infarct. She was 
subsequently transferred to ___ for stroke evaluation.
After discharge, she reports following up with a neurologist 
there, Dr. ___ L hemispheric AVM and newfound aneurysms 
involving L M2, L ICA x 2 at clinoid and cavernous portions, R 
ICA at cavernous portion, and R PCA, with determination not to 
intervene. Per ___ documentation, it seems that she was
discharged from there on Aspirin/Plavix. These medications were 
later discontinued after UGIB x 2 treated at ___, once in ___ 
and the other in ___. Pt herself cannot recall why medications 
were stopped and if there had been any discussion about 
restarting. Denies any residual deficits. 

 
Past Medical History:
HLD
R Cerebellar infarct in ___
COPD
?UGIB in ___ and ___ d/t bleeding duodenal ulcer
Hiatal Hernia
Anxiety
Multiple cerebral aneurysms and AVM
 
Social History:
___
Family History:
Mother-stroke  
 
Physical ___:
ADMISSION EXAM:
===============
Physical Exam:
Vitals: T: 98.1; BP: 128 / 66; HR: 71; SpO2: 91% on RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity, 
slight discomfort to palpation over R neck
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to provide history 
with missing details. Attentive to examiner, able to count down 
from ten and name ___
with some difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. Pt was able to register 3 objects and 
recall ___ with cue) at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal
saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  
Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___-  5   5    5  5     5     5   5
R  5    ___   ___-  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, vibratory sense, 
or proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

-Coordination: Slight intention tremor noted on left. Slight 
dysmetria on FNF
on left. RAM intact. Mirror testing with mild overshoot on left.

-Gait: Deferred.

DISCHARGE EXAM:
===============
VS: Temp: 97.6 (Tm 98.4), BP: 123/65 (113-149/61-75), HR: 78 
(66-78), RR: 18 (___), O2 sat: 93% (90-95), O2 delivery: Ra, 
Wt: 115.52 lb/52.4 kg  
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity, 
slight discomfort to palpation over R neck
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to provide history 
with missing details. Attentive to examiner, able to count down 
from ten and name ___
with some difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. Pt was able to register 3 objects and 
recall ___ with cue) at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal
saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally though subtle right sided finger spread. No 
adventitious movements, such as tremor, noted. No asterixis 
noted.
  
Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___-  5   5    5  5     5     5   5
R  5    ___   ___-  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, vibratory sense, 
or proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

-Coordination: Slight intention tremor noted on left. Slight 
dysmetria on FNF
on left. RAM intact. Mirror testing with mild overshoot on left.

-Gait: Deferred.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:25AM BLOOD WBC-8.1 RBC-3.79* Hgb-12.0 Hct-37.7 
MCV-100* MCH-31.7 MCHC-31.8* RDW-13.2 RDWSD-47.9* Plt ___
___ 04:26PM BLOOD Neuts-66.2 ___ Monos-7.8 Eos-2.2 
Baso-0.5 Im ___ AbsNeut-6.29* AbsLymp-2.19 AbsMono-0.74 
AbsEos-0.21 AbsBaso-0.05
___ 06:25AM BLOOD ___ PTT-31.3 ___
___ 06:25AM BLOOD Glucose-90 UreaN-19 Creat-0.9 Na-141 
K-4.7 Cl-106 HCO3-24 AnGap-11
___ 06:25AM BLOOD ALT-9 AST-14 LD(LDH)-165 CK(CPK)-66 
AlkPhos-75 TotBili-0.4
___ 04:26PM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:25AM BLOOD Albumin-4.0 Calcium-9.7 Phos-3.7 Mg-2.1 
Cholest-130
___ 06:25AM BLOOD %HbA1c-6.0 eAG-126
___ 06:25AM BLOOD Triglyc-102 HDL-61 CHOL/HD-2.1 LDLcalc-49
___ 06:25AM BLOOD TSH-1.2
___ 06:25AM BLOOD CRP-5.8*
___ 04:26PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS:
===============
___ 06:25AM BLOOD WBC-8.1 RBC-3.79* Hgb-12.0 Hct-37.7 
MCV-100* MCH-31.7 MCHC-31.8* RDW-13.2 RDWSD-47.9* Plt ___
___ 06:25AM BLOOD ___ PTT-31.3 ___
___ 06:25AM BLOOD Glucose-90 UreaN-19 Creat-0.9 Na-141 
K-4.7 Cl-106 HCO3-24 AnGap-11
___ 06:25AM BLOOD ALT-9 AST-14 LD(LDH)-165 CK(CPK)-66 
AlkPhos-75 TotBili-0.4
___ 06:25AM BLOOD Albumin-4.0 Calcium-9.7 Phos-3.7 Mg-2.1 
Cholest-130
___ 06:25AM BLOOD Triglyc-102 HDL-61 CHOL/HD-2.1 LDLcalc-49
___ 06:25AM BLOOD TSH-1.2
___ 06:25AM BLOOD CRP-5.8*

IMAGING:
========
CXR ___:
No acute intrathoracic process.  Probable artifact overlying the 
mid chest on the lateral view. 
  
MRI/MRA BRAIN ___:
1. No acute infarct. 
2. Large chronic right cerebellar infarct. 
3. Findings suggestive of acute paranasal sinusitis 
4. There are 4 intracranial aneurysms, largest 9 mm in diameter. 
 2 aneurysms at the left cavernous ICA; 1 at the right cavernous 
ICA; 1 in the left MCA bifurcation.
5. Posterior left temporal AVM, drainage by vein of ___, 
distal transverse sinus.  Areas of proximal draining veins 
ectasia and narrowing. 
6. Multifocal areas of narrowing right vertebral artery, 
occluded right V4 
segment, similar. Mild-to-moderate stenosis at the origin of 
both vertebral arteries. 

 
Brief Hospital Course:
PATIENT SUMMARY:
================
Ms. ___ is a ___ year-old woman with a history of 
hyperlipidemia, prior cerebellar stroke in ___, left 
hemispheric AVM, multiple intracerebral aneurysms, and COPD who 
was admitted to the ___ Neurology Stroke service with a right 
vertebral artery dissection in the setting of 4 days of 
right-sided headache and 1 day of right neck stiffness. She 
denied a recent history of trauma, rigorous physical activity, 
massage, etc. She had no neurological deficits on exam. Of note, 
she was not on antiplatelet therapy on admission as she 
previously had 2 duodenal ulcer bleeds in ___ and was 
subsequently taken off aspirin and plavix. 

In the hospital, she was re-started on aspirin 81 in addition to 
omeprazole 40 mg daily for secondary prevention of further GI 
bleeding. MRI confirmed right vertebral artery dissection and 
showed no evidence of acute infarction. MRI did show her chronic 
right cerebellar infarcts in addition to her multiple known 
intracerebral aneurysms. 

Her dissection was thought to possibly be chronic, and likely 
even the cause of her previous cerebellar infarct. It is also 
possible that she has an underlying connective tissue disorder, 
but this diagnosis was not further pursued while inpatient.

On discharge, she had no neurological deficits. She will be 
discharged to home.

TRANSITIONAL ISSUES:
====================
# Patient would like to follow up with neurosurgery at ___. We 
contacted our colleagues from neurosurgery who are working on 
scheduling an appointment for her to be seen in clinic within 
the next 3 weeks. 

# Patient discharged on aspirin 81 mg daily. She should continue 
this indefinitely. 

# Her stroke risk factors include the following: 

 1) Vertebral artery dissection
 2) Left hemispheric AVM
 3) Multiple intracerebral aneurysms
 4) Hyperlipidemia: well controlled on atorvastatin 20 mg daily 
with LDL 49.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Celecoxib 200 mg oral PRN ankle pain 
4. ClonazePAM 0.5 mg PO TID:PRN anxiety 
5. Omeprazole 40 mg PO DAILY 
6. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*3 
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing  
4.  Atorvastatin 20 mg PO QPM  
5.  Celecoxib 200 mg oral PRN ankle pain  
6.  ClonazePAM 0.5 mg PO TID:PRN anxiety  
7.  Ferrous Sulfate 325 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vertebral artery dissection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

 You were hospitalized due to symptoms of right head soreness 
and stiff neck. You were found to have a RIGHT VERTEBRAL ARTERY 
DISSECTION, which is a partial tear in the wall of a blood 
vessel in your neck. It is not a full tear, so the vessel is 
still partially intact. However, having a dissection increases 
your risk of having a stroke, which is a condition where a blood 
vessel providing oxygen and nutrients to the brain is blocked by 
a clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  

 You have had a stroke in the past, and in order to prevent 
another stroke in the future, we are changing your medications 
as follows:  
 
 - Please start taking ASPIRIN 81 MG ONCE DAILY ("baby" aspirin) 
to thin your blood. It is very important that you continue to 
take this indefinitely.

 - Because you have had bleeding in your stomach in the past, 
please also start taking OMEPRAZOLE 40 mg ONCE DAILY to reduce 
the acid in your stomach and help prevent further bleeding in 
your stomach in the future. 

 Please continue to take your other medications as prescribed.  

 Please followup with Neurology and your primary care physician. 
Your primary care physician ___ help you determine how long to 
keep taking OMEPRAZOLE, and when you can stop taking it. You 
will also need to continue to monitor the aneurysms in your 
brain with a neurologist.

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can occur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___